US06346527B1
To a solution of {2,3-dihydro-9-[2-(tert-butoxycarbonylamino)ethylaminocarbonyl]-1-benzoxepin-4-carbonyl}guanidine (0.8 g) in 1,4-dioxane (8 ml) was added 4N hydrogen chloride in 1,4-dioxane (8 ml) at ambient temperature and the mixture was stirred at the same temperature for 18 hours. Diisopropyl ether (10 ml) was added to the mixture and the precipitate was collected by filtration. The precipitate was recrystallized from a mixture of methanol and diisopropyl ether to give [2,3-dihydro-9-(2-aminoethylaminocarbonyl)-1-benzoxepin-4-carbonyl]guanidine dihydrochloride (0.57 g).

reactant | {2,3-dihydro-9-[2-(tert-butoxycarbonylamino)ethylaminocarbonyl]-1-benzoxepin-4-carbonyl}guanidine | 0.8 g | C(C)(C)(C)OC(=O)NCCNC(=O)C1=CC=CC=2C=C(CCOC21)C(=O)NC(=N)N | C20H27N5O5
reactant | hydrogen chloride | 4N | Cl | ClH
reactant | Diisopropyl ether | 10 ml | C(C)(C)OC(C)C | C6H14O
solvent | 1,4-dioxane | 8 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 8 ml | O1CCOCC1 | C4H8O2
product | [2,3-dihydro-9-(2-aminoethylaminocarbonyl)-1-benzoxepin-4-carbonyl]guanidine dihydrochloride | 0.57 g | Cl.Cl.NCCNC(=O)C1=CC=CC=2C=C(CCOC21)C(=O)NC(=N)N | InChI=1S/C15H19N5O3.2ClH/c16-5-6-19-14(22)11-3-1-2-9-8-10(4-7-23-12(9)11)13(21)20-15(17)18;;/h1-3,8H,4-7,16H2,(H,19,22)(H4,17,18,20,21);2*1H
